US08426420B2
ii) piperazine-1-carboxylic acid propyl ester hydrotrifluoroacetate
To a solution of 7.5 g piperazine-1,4-dicarboxylic acid propyl ester tert-butyl ester in 70 ml dichloromethane were added 10 ml TFA. After stirring for 36 h the solution was concentrated and the residue codistilled with toluene twice. Yield: 9.2 g.

reactant | piperazine-1,4-dicarboxylic acid propyl ester tert-butyl ester | 7.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCCC | C13H24N2O4
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | piperazine-1-carboxylic acid propyl ester | C(CC)OC(=O)N1CCNCC1 | C8H16N2O2
